US07439237B2
(4b) methyl 2-acetylamino-3-(4-amino-3-chloro-5-methyl-phenyl)-propionate
20.6 g (73.0 mmol) methyl (E)-2-acetylamino-3-(4-amino-3-chloro-5-methyl-phenyl)-acrylate, 0.445 g (0.90 mmol) bis(1,5-cyclooctadiene)-di-rhodium(I)-dichloride, 0.744 g (1.8 mmol) 1,3-bis(diphenylphosphino)-propane were dissolved in 400 ml degassed methanol and 12 ml degassed triethylamine and then hydrogenated at ambient temperature under 3 bar hydrogen pressure. The reaction mixture was evaporated down under reduced pressure and taken up in ethyl acetate. The insoluble precipitate was removed by suction filtering and the filtrate was evaporated down under reduced pressure. The residue was purified by column chromatography.

reactant | methyl (E)-2-acetylamino-3-(4-amino-3-chloro-5-methyl-phenyl)-acrylate | 73.0 mmol, 20.6 g | C(C)(=O)N\C(\C(=O)OC)=C\C1=CC(=C(C(=C1)C)N)Cl | C13H15ClN2O3
reactant | 1,3-bis(diphenylphosphino)-propane | 1.8 mmol, 0.744 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
catalyst | bis(1,5-cyclooctadiene)-di-rhodium(I)-dichloride | 0.90 mmol, 0.445 g | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Rh].[Rh]
product | methyl 2-acetylamino-3-(4-amino-3-chloro-5-methyl-phenyl)-propionate | C(C)(=O)NC(C(=O)OC)CC1=CC(=C(C(=C1)C)N)Cl | C13H17ClN2O3
